US05204364
A solution of 1.9 g of 5,6-dihydro-7,8-epoxy-8-methyl-2-naphthalenecarboxylic acid (prepared by epoxidation of 5,6-dihydro-8-methyl-2-naphthalenecarboxylic acid, m.p. 150°-153° C.) in anhydrous DMF is added to a solution of imidazole potassium salt, prepared from prepared from 3.16 g of imidazole and 1.81 g of potassium, in anhydrous DMF (100 ml) and heated at 130° C., with vigorous stirring, for 6 hours. The solvent is evaporated under reduced pressure and the residue is taken up with water and ethyl acetate. The aqueous layer is separated and acidified to pH=5 with acetic acid. The water is evaporated under vacuum and the residue is chromatographed on silica gel (eluent CHCl3 :CH3OH, 70:30) giving 1.6 g of 5,6,7,8-tetrahydro-8-hydroxy-8-methyl-7-(1H-imidazol-1-yl)-2-naphthalenecarboxylic acid.

reactant | 5,6-dihydro-7,8-epoxy-8-methyl-2-naphthalenecarboxylic acid | 1.9 g | O1C2CCC=3C=CC(=CC3C21C)C(=O)O | C12H12O3
reactant | imidazole potassium salt | [K].N1C=NC=C1
reactant | imidazole | 3.16 g | N1C=NC=C1 | C3H4N2
reactant | potassium | 1.81 g | [K] | K
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 5,6,7,8-tetrahydro-8-hydroxy-8-methyl-7-(1H-imidazol-1-yl)-2-naphthalenecarboxylic acid | 1.6 g | OC1(C(CCC=2C=CC(=CC12)C(=O)O)N1C=NC=C1)C | C15H16N2O3
